US07115611B2
D] [rac]-[2-(3-Methoxy-propyl)-4-(methyl-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-butyl}-amino)-phenoxy]-acetic acid
0.082 g (0.143 mmol) of the above prepared [rac]-[2-(3-methoxy-propyl)-4-(methyl-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-butyl}-amino)-phenoxy]-acetic acid ethyl ester was dissolved in 1.64 ml of THF/EtOH=1/1, treated at 0° C. with 0.43 ml (3 eq.) of 1N NaOH, and kept at ambient temperature for 2 h. The reaction mixture was then neutralized with HCl dil. to pH 7, extracted with AcOEt, the organic layer was washed with water, dried over sodium sulfate, and evaporated to dryness to leave 0.070 g of the title compound as light brown oil.

reactant | [rac]-[2-(3-methoxy-propyl)-4-(methyl-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-butyl}-amino)-phenoxy]-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)N(C(CCC)C=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C)C)CCCOC)=O | C32H39F3N2O4
reactant | NaOH | 1N, 0.43 ml, 3 eq. | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF EtOH | 1.64 ml | C1CCOC1.CCO
product | [rac]-[2-(3-Methoxy-propyl)-4-(methyl-{1-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-butyl}-amino)-phenoxy]-acetic acid | 0.070 g | COCCCC1=C(OCC(=O)O)C=CC(=C1)N(C(CCC)C=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C)C | C30H35F3N2O4
